US04144047
Preparation of Ethyl β-Amino-m-Methylcinnamate.
To 202 ml of 2.9 M phenylmagnesium bromide in ether (0.585 mol) was aded 100 ml of ether. Then, 66.1 g (0.585 mol) of ethyl cyanoacetate was added over a few minutes with stirring at -40° to -15°. A heavy, thick precipitate formed that made stirring difficult. The mixture was allowed to warm slowly to 20°. Then, the Grignard reagent prepared from 100 g (0.585 mol) of 3-bromotoluene and 14.4 g (0.593 mol) of magnesium turnings in 300 ml of ether was added. The mixture was stirred at reflux for 4 hours, cooled, and poured slowly with stirring into 1 l. of ice-water mixture in which 62.6 g (1.17 mol) of NH4Cl was dissolved. Then, an ice-cold solution of 1.17 mol of HCl in 300 ml of water was added with stirring. The two layers were shaken together and separated. The aqueous layer was extracted with two 200-ml portions of ether. The ether layers were combined, dried (CaSO4), and concentrated under aspirator vacuum to 112.0 g of oil that contained 78.4 g (65% yield) of product (gas chromatography assay with internal standard). The oil was distilled to give 83.2 g of 89% pure product (62% yield of ester), boiling point 120°-130° (0.08 torr). Redistillation of the product through a fractionating column gave 57.2 g (48%) of 97% pure product, boiling point 118° (0.05 torr). A small sample was redistilled to give 100% pure material, boiling point 118° (0.1 torr).

reactant | phenylmagnesium bromide | 2.9 M, 202 ml | C1(=CC=CC=C1)[Mg]Br
reactant | ethyl cyanoacetate | 0.585 mol, 66.1 g | C(#N)CC(=O)OCC | C5H7NO2
reactant | 3-bromotoluene | 0.585 mol, 100 g | BrC=1C=C(C=CC1)C | C7H7Br
reactant | magnesium | 0.593 mol, 14.4 g | [Mg] | Mg
reactant | NH4Cl | 1.17 mol, 62.6 g | [NH4+].[Cl-]
reactant | HCl | 1.17 mol | Cl | ClH
solvent | ether | 300 ml | CCOCC | C4H10O
solvent | water | 300 ml | O | H2O
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ether | 0.585 mol | CCOCC | C4H10O
product | Ethyl β-Amino-m-Methylcinnamate | 78.4 g, 65% yield | NC(=CC(=O)OCC)C1=CC(=CC=C1)C | C12H15NO2
